*OA Ideal
* Connections: 
*                Non-Inverting Input
*                |   Inverting Input
*                |   |   
*                |   |   |   
*                |   |   |   |   Output
*                |   |   |   |   |
.SUBCKT OA_Ideal 1   2   3   4   5
E1 N001 0 1 2 1
RF1 N002 N001 1
CF1 N002 0 {CF1}
E3 5 0 N002 0 {Av}
.param Av={Avol}
.param f1={GBWP/Avol}
.param CF1={1/(2*PI*f1)}
.ends OA_Ideal
*